US09062076B2
2-Aminobenzenesulfonamide (0.25 g, 1.4 mmol) was added to a suspension of (E)-3-(3,4-dimethoxyphenyl)acrylic acid (0.25 g, 1.2 mmol), HBTU (0.55 g, 1.4 mmol) and NEt3 (0.67 mL, 4.8 mmol) in MeCN (5 mL) and the reaction was stirred at rt for 16 h. Extra NEt3 (0.67 mL, 4.8 mmol) in MeCN (5 mL) was added and the reaction was stirred at rt for 64 h. The solution was acidified and the precipitate was collected by filtration. Hot EtOH (15 mL) was added to the crude product and the undissolved solid was collected by hot filtration, providing (E)-3-[2-(3,4-dimethoxyphenyl)ethenyl]-4H-1,2,4-benzothiadiazine-1,1-dioxide (58 mg, 14%) as a colourless crystalline solid; mp 276-279° C.; δH (500 MHz, DMSO-d6) 3.81 (s, 3H, OCH3), 3.83 (s, 3H, OCH3), 6.75 (d, J=15.6 Hz, 1H, CH═CHCO), 7.05 (d, J5′,6′=8.0 Hz, 1H, H5′), 7.29 (d, J5′,6=8.0 Hz, 1H, H6′), 7.31 (s, 1H, H2′), 7.38 (d, J5,6=8.0 Hz, 1H, H5), 7.45 (t, J5,6=J6,7=8.0 Hz, 1H, H6), 7.68 (t, J6,7=J7,8=8.0 Hz, 1H, H7), 7.80 (d, J7,8=8.0 Hz, 1H, H8), 7.82 (d, J=15.6 Hz, 1H, CH═CHCO), 12.13 (s, 1H, NH); δC (125 MHz, DMSO-d6) 55.4, 55.6, 110.3, 111.8, 116.6, 117.6, 122.0, 122.7, 123.3, 126.3, 126.9, 133.0, 135.2, 142.2, 149.0, 151.1, 153.5; HRMS (ESI) calculated for C17H16N2O4S [M+H]+ 345.0904, found 345.0900; νmax 756, 1134, 1263, 1513, 1568, 1600, 3024, 3117, 3163, 3200 cm−1.

reactant | 2-Aminobenzenesulfonamide | 1.4 mmol, 0.25 g | NC1=C(C=CC=C1)S(=O)(=O)N | C6H8N2O2S
reactant | (E)-3-(3,4-dimethoxyphenyl)acrylic acid | 1.2 mmol, 0.25 g | COC=1C=C(C=CC1OC)/C=C/C(=O)O | C11H12O4
reactant | HBTU | 1.4 mmol, 0.55 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | NEt3 | 4.8 mmol, 0.67 mL | CCN(CC)CC | C6H15N
reactant | NEt3 | 4.8 mmol, 0.67 mL | CCN(CC)CC | C6H15N
solvent | MeCN | 5 mL | CC#N | C2H3N
solvent | MeCN | 5 mL | CC#N | C2H3N
product | (E)-3-[2-(3,4-dimethoxyphenyl)ethenyl]-4H-1,2,4-benzothiadiazine-1,1-dioxide | 58 mg, 14% | COC=1C=C(C=CC1OC)/C=C/C1=NS(C2=C(N1)C=CC=C2)(=O)=O | C17H16N2O4S
